US04937252
Preparation of 3-phenylmethyl-2-thiazolidinone
A mixture containing 3.09 g (0.03 mol) of 2-thiazolidinone, 11.2 g of potassium carbonate, 1.8 g of potassium hydrogen carbonate, 0.5 ml of water, 30 ml of methyl isobutyl ketone and 3.0 ml (0.033 mol) of benzyl bromide is refluxed for 7 hours. After cooling down, the reaction mixture is washed twice with 30 ml of water each, the organic phase is dried and evaporated. The yellow oily product (which solidifies on standing) may be purified by column chromatography (by using Kieselgel 60 of 230-400 mesh as sorbent and chloroform as eluent) to give 3.2 g (55.2%) of the title compound, m.p.: 50°-51° C.

reactant | 2-thiazolidinone | 0.03 mol, 3.09 g | S1C(NCC1)=O | C3H5NOS
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen carbonate | 1.8 g | C(O)([O-])=O.[K+]
reactant | benzyl bromide | 0.033 mol, 3.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
solvent | water | 0.5 ml | O | H2O
product | 3-phenylmethyl-2-thiazolidinone | 3.2 g, 55.2% | C1(=CC=CC=C1)CN1C(SCC1)=O | C10H11NOS
